US07790724B2
4-Amino-N-tert-butyl-3-cyclohex-1-enyl-benzenesulfonamide was prepared according to the Suzuki coupling procedure of Example 44, step (b) using cyclohex-1-enyl boronic acid (63 mg, 0.50 mmol) and 4-amino-3-bromo-N-tert-butyl-benzenesulfonamide (123 mg, 0.400 mmol, as prepared above) to obtain 4-amino-N-tert-butyl-3-cyclohex-1-enyl-benzenesulfonamide (87 mg, 70%) after purification on silica (30% EtOAc/hexanes). Mass spectrum (ESI, m/z): Calcd. for C16H24N2O2S, 309.1 (M+H), found 309.1

reactant | cyclohex-1-enyl boronic acid | 0.50 mmol, 63 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | 4-amino-3-bromo-N-tert-butyl-benzenesulfonamide | 0.400 mmol, 123 mg | NC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)Br | C10H15BrN2O2S
product | 4-amino-N-tert-butyl-3-cyclohex-1-enyl-benzenesulfonamide | 87 mg, 70% | NC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C1=CCCCC1 | C16H24N2O2S
